### ISSUE TITLE
Stateful forward reasoning failure depending on order of hypotheses

### ISSUE THREAD

**Issue by JLimperg** [leanprover-community/aesop#207]
```lean
import Mathlib

namespace Set.EqOn

@[aesop safe forward]
lemma of_mem {α β : Type*} {f₁ f₂ : α → β} {s : Set α} (h : EqOn f₁ f₂ s) {x : α} (hx : x ∈ s) :
    f₁ x = f₂ x :=
  h hx

example (s : Set ℝ) (x : ℝ) (hx : x ∈ s) (f : ℝ → ℝ) (h_eqOn_x : EqOn f 1 {x}) (this : EqOn f 0 s) :
    False := by
  rw [eqOn_singleton, Pi.one_apply] at h_eqOn_x -- `aesop` fails without applying these `simp` lemmas
  aesop

-- note the variable order!
example (s : Set ℝ) (x : ℝ) (hx : x ∈ s) (f : ℝ → ℝ) (this : EqOn f 0 s) (h_eqOn_x : EqOn f 1 {x}) :
    False := by
  aesop -- works

end Set.EqOn
```

Reported [on Zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/.60aesop.60.20forward.20needs.20.60simp.60.20first.3F).

Both work with stateful forward reasoning disabled.
